US04124704
A mixture containing 68.7 g. (0.19 mole) of 2,7-dibromo-5-methyl-3-phenylbenzofuran and 35.5 g. (0.19 mole) of N-bromosuccinimide in one liter of carbon tetrachloride is irradiated with a bulb simulating sunlight for two hours. An additional 10 g. of N-bromosuccinimide is added, and irradiation is continued for one hour. The mixture is cooled and filtered. The filtrate is evaporated to a brown oil which crystallizes when triturated with hexane to provide solid 5-bromomethyl-2,7-dibromo-3-phenylbenzofuran.

reactant | 2,7-dibromo-5-methyl-3-phenylbenzofuran | 0.19 mole | BrC=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2Br)C | C15H10Br2O
reactant | N-bromosuccinimide | 0.19 mole | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | one liter | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-2,7-dibromo-3-phenylbenzofuran | BrCC=1C=C(C2=C(C(=C(O2)Br)C2=CC=CC=C2)C1)Br | C15H9Br3O
